US08314138B2
Part B. An oven-dried sealed tube was charged with 2-bromo-4-methyl-thiazole-5-carboxylic acid benzylamide (800 mg, 2.57 mmol, 1.0 equiv). The sealed tube was purged with nitrogen and Rieke zinc (10 mL, 10 g of zinc in 100 mL of tetrahydrofuran) was added. The reaction was heated in the microwave oven for 15 min. at 100° C. Stirring was stopped and the remaining zinc was allowed to settle. The supernatant containing the zinc reagent was transferred via syringe to a solution of 2,6-diiodopyrazine (680 mg, 2.1 mmol, 0.8 equiv), Pd(PPh3)4 (236 mg, 0.2 mmol, 7 mol %) in tetrahydrofuran (5 mL) and dimethyl formamide (0.2 mL). The reaction mixture was purged with nitrogen for 10 min, then stirred at 160° C. for 16 hr. After cooling, the solvent was removed in vacuo and the crude product was purified by column chromatography [SiO2, ethyl acetate/heptane, 10:90 to 40:60, v/v] to afford 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide (140 mg, 13%). MS (M+H)+=436, Rt=1.51 min.

reactant | 2-bromo-4-methyl-thiazole-5-carboxylic acid benzylamide | 2.57 mmol, 800 mg, 1.0 equiv | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)Br)C | C12H11BrN2OS
reactant | 2,6-diiodopyrazine | 2.1 mmol, 680 mg, 0.8 equiv | IC1=NC(=CN=C1)I | C4H2I2N2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dimethyl formamide | 0.2 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.2 mmol, 236 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide | 140 mg, 13% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)I)C | C16H13IN4OS
